US06566356B2
0.214 g of 4-fluorophenylsulfonyl chloride and 0.28 cm3 of triethylamine are added, at room temperature under an argon atmosphere, to a solution of 0.307 g of 1-[bis(4-chlorophenyl)methyl]azetidin-3-ylamine in 10 cm3 of dichloromethane. After stirring for 16 hours at room temperature, the reaction mixture is washed with 10 cm3 of distilled water, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is purified by flash chromatography on silica gel [eluant: dichloromethane/ethyl acetate (100/0 to 95/5 by volume) gradient]. 0.18 g of N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-4-fluorophenylsulfonamide is obtained in the form of a white foam [1H NMR spectrum (300 MHz, CDCl3, δ in ppm): 2.74 (broad t, J=7.5 Hz: 2H); 2.39 (broad t, J=7.5 Hz: 2H); 3.98 (mt: 1H); 4.20 (s: 1H); 4.79 (d, J=9 Hz: 1H); from 7.10 to 7.35 (mt: 10H); 7.86 (mt: 2H)].

reactant | 4-fluorophenylsulfonyl chloride | 0.214 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | triethylamine | 0.28 cm3 | C(C)N(CC)CC | C6H15N
reactant | 1-[bis(4-chlorophenyl)methyl]azetidin-3-ylamine | 0.307 g | ClC1=CC=C(C=C1)C(N1CC(C1)N)C1=CC=C(C=C1)Cl | C16H16Cl2N2
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
product | N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-4-fluorophenylsulfonamide | 0.18 g | ClC1=CC=C(C=C1)C(N1CC(C1)NS(=O)(=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)Cl | C22H19Cl2FN2O2S
